US08859566B2
A mixture of 8-{4-[3-(4-Fluoro-phenyl)-prop-2-ynyloxy]-phenyl}-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one (0.03 g, 0.056 mmol), 2N HCl (1 ml), ethanol (2 ml) was heated at 85° C. for 2 hours. The mixture was cooled and the solvent was evaporated. The residue was washed with n-pentane to obtain 8-{4-[3-(4-fluoro-phenyl)-prop-2-ynyloxy]-phenyl}-1-propyl-1,7-dihydro-purin-6-one (0.018 g, 78%) as off white solid.

reactant | 8-{4-[3-(4-Fluoro-phenyl)-prop-2-ynyloxy]-phenyl}-1-propyl-7-(2-trimethylsilanyl-ethoxymethyl)-1,7-dihydro-purin-6-one | 0.056 mmol, 0.03 g | FC1=CC=C(C=C1)C#CCOC1=CC=C(C=C1)C1=NC=2N=CN(C(C2N1COCC[Si](C)(C)C)=O)CCC | C29H33FN4O3Si
reactant | HCl | 2N, 1 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 8-{4-[3-(4-fluoro-phenyl)-prop-2-ynyloxy]-phenyl}-1-propyl-1,7-dihydro-purin-6-one | 0.018 g, 78% | FC1=CC=C(C=C1)C#CCOC1=CC=C(C=C1)C1=NC=2N=CN(C(C2N1)=O)CCC | C23H19FN4O2
